US08283354B2
(S)-tert-Butyl 3-(aminomethyl)piperidine-1-carboxylate (1.00 g, 4.67 mmol) was dissolved in 14 mL anhydrous CH2Cl2 under an N2 atmosphere and cooled to 0° C. Triethylamine (1.30 mL, 945 mg, 9.34 mmol) was added followed by the dropwise addition of benzyl chloroformate (0.99 mL, 1.20 g, 7.00 mmol). After 16 h, the reaction mixture was partitioned between H2O and CH2Cl2, and separated, and the aqueous layer was extracted twice with CH2Cl2. The organic layers were combined, dried over Na2SO4, filtered, and concentrated to a light yellow oil. Purification via silica gel chromatography using 97% CH2Cl2/3% MeOH gave benzyl((S)-1-(tert-butoxycarbonyl)piperidin-3-yl)methylcarbamate as a clear colorless oil (895 mg, 55%). LC/MS: m/z 349.5 (M+H)+ at 3.21 min (10%-99% CH3CN (0.035% TFA)/H2O (0.05% TFA)).

reactant | (S)-tert-Butyl 3-(aminomethyl)piperidine-1-carboxylate | 4.67 mmol, 1.00 g | NC[C@H]1CN(CCC1)C(=O)OC(C)(C)C | C11H22N2O2
reactant | Triethylamine | 9.34 mmol, 1.30 mL, 945 mg | C(C)N(CC)CC | C6H15N
reactant | benzyl chloroformate | 7.00 mmol, 0.99 mL, 1.20 g | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
solvent | CH2Cl2 | 14 mL | C(Cl)Cl | CH2Cl2
product | benzyl((S)-1-(tert-butoxycarbonyl)piperidin-3-yl)methylcarbamate | 895 mg, 55% | C(C1=CC=CC=C1)OC(NC[C@H]1CN(CCC1)C(=O)OC(C)(C)C)=O | C19H28N2O4
